US05215547
1,3-dibenzyl-5-(N,N-dimethyl-3'-aminopropyl)hexahydrotriazine
1,3-diphenyl-5-(N,N-dimethyl-3'-aminopropyl)hexahydrotriazine, 1,3-di-m-tolyl-5-(((N,N-dimethyl-3'-aminopropyl)hexahydrotriazine, 1,3-dipropyl-5-(N,N-dibutyl-3'-aminopropyl)hexahydrotriazine, 1,3-diphenyl-5-(N,N-dioctyl-4'-aminobutyl)hexahydrotriazine, 1,3-di(polybutenyl)-5-(N,N-dimethyl-3'-aminopropyl)hexahydrotriazine, and the like.

reactant | 1,3-diphenyl-5-(N,N-dimethyl-3'-aminopropyl)hexahydrotriazine | C1(=CC=CC=C1)N1NN(CC(C1)CCCN(C)C)C1=CC=CC=C1 | C20H28N4
reactant | (N,N-dimethyl-3'-aminopropyl)hexahydrotriazine | CN(CCCN1NNCCC1)C | C8H20N4
reactant | 1,3-dipropyl-5-(N,N-dibutyl-3'-aminopropyl)hexahydrotriazine | C(CC)N1NN(CC(C1)CCCN(CCCC)CCCC)CCC | C20H44N4
reactant | 1,3-diphenyl-5-(N,N-dioctyl-4'-aminobutyl)hexahydrotriazine | C1(=CC=CC=C1)N1NN(CC(C1)CCCCN(CCCCCCCC)CCCCCCCC)C1=CC=CC=C1 | C35H58N4
product | 1,3-dibenzyl-5-(N,N-dimethyl-3'-aminopropyl)hexahydrotriazine | C(C1=CC=CC=C1)N1NN(CC(C1)CCCN(C)C)CC1=CC=CC=C1 | C22H32N4
